* Schematics Netlist *



V_Vi         $N_0001 0 0V
V_VDD         $N_0002 0 5V
R_RD         Vo $N_0002  200k  
M_M1         Vo $N_0001 0 0 MbreakN-X  
+ L=1u  
+ W=2u         
