* Schematics Netlist *



X_U1A         $N_0001 $N_0002 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_Vi         $N_0001 0 0V
R_RL         $N_0002 $N_0003  22k  
V_Vcc         $N_0003 0 5V
