* Schematics Netlist *



V_VCC         $N_0001 0 5V
R_Rpu         $N_0002 $N_0001  2k2  
X_U3A         $N_0003 $N_0002 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         $N_0004 $N_0002 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_Va         $N_0003 0 5V
V_Vb         $N_0004 0 5V
