* Schematics Netlist *



X_U3A         $N_0001 F $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         $N_0002 F $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_Va         $N_0001 0 5V
V_Vb         $N_0002 0 0V
