* Schematics Netlist *



V_Va         $N_0001 0 5V
V_Vb         $N_0002 0 0V
X_U5A         $N_0001 $N_0003 F $G_DPWR $G_DGND 74125 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7A         $N_0003 $N_0004 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6A         $N_0002 $N_0004 F $G_DPWR $G_DGND 74125 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_S         $N_0003 0 5V
