* Schematics Netlist *



V_VDD         $N_0001 0 5V
M_M2         $N_0003 $N_0002 $N_0001 $N_0001 MbreakP-X  
+ L=1u  
+ W=1u         
M_M1         $N_0003 $N_0002 0 0 MbreakN-X  
+ L=1u  
+ W=1u         
V_Ve         $N_0002 0 DC 0 AC 0
+PULSE 0 5 200n 10n 10n 700n 
C_C1         0 $N_0003  2p  
